US07151105B2
Preparation of 2-[4-(3-cyclopentyl-3-oxopropyl)-2-fluorophenyl]-2-methylpropanenitrile
A nitrogen-purged, 2-L, 3-neck flask containing 2-(4-bromo-2-fluorophenyl)-2-methylpropanenitrile (114.14 g, 0.4715 mol) was sequentially charged (while stirring) with LiCl (39.62 g, 0.9347 mol), LiOAc (15.41 g, 0.2334 mol), DMAc (283 mL), and H2O (28.3 mL). The solution was then purged (subsurface) with N2 for 1 h. The flask was then charged with 1-cyclopentyl-prop-2-en-1-ol (73.70 g, 0.5808 mol), Et3N (6.5 mL, 0.0466 mol, 10% of the total to be added), and Pd(OAc)2 (5.2487 g, 0.0234 mol) followed by a careful purge of the headspace. The reaction was heated towards 75° C. Once the internal temperature reached 60° C. the reaction may exotherm. It took a total of 20 minutes to heat the reaction to 75° C. Fifteen minutes after the internal temp had reached 60° C., an aliquot was removed and analyzed by HPLC, showing a 3:1 ratio of starting material to product. At this point, a second addition of NEt3 (13.0 mL, 0.0933 mol, 20% of the total to be added) was added to the reaction. Each addition of TEA causes additional exotherms. Twenty minutes after the second NEt3 addition, an aliquot was removed and analyzed by HPLC, showing a 2:1 ratio of starting material to product. Ten minutes later, the third portion of NEt3 (46.0 mL, 0.3300 mol, 70% of the total to be added) was added to the reaction. Thirty-five minutes after the final NEt3 addition, an aliquot was removed and analyzed by HPLC, showing >70:1 ratio of product to starting material. The reaction was heated for 30 min more, then cooled to <30° C. over 15 min. The flask was charged with H2O (500 mL), MTBE (500 mL), DARCO (28.5 g), and celite (28.5 g). The solution stirred well for 2 hours then filtered over a cake of celite (28.5 g packed in a 4″ buchner funnel). This filtration of the bilayer through celite was slow, and the vacuum caused a significant portion of the organic solvent to boil away. The cake was washed with MTBE (250 mL followed by 125 mL). The filtrate was added to a separatory funnel with an additional portion of MTBE (200 mL), the phases mixed well, and the lower aqueous layer removed. The organic phase was extracted with H2O (200 mL) and the phases mixed well. The lower aqueous layer was removed. The organic layer was extracted with a 5% NaCl/H2O solution (200 mL). The phases were separated and the organic layer was added to a 1 L, 3-neck flask. The solution was concentrated by atmospheric distillation until the internal volume was ˜2 volumes. After cooling below reflux, an aliquot was removed and analyzed by K-F titration, showing 0.35% H2O. An additional portion of MTBE (150 mL) was added and distillation continued until the internal volume was again ˜2 volumes. After cooling below reflux, an aliquot was removed and analyzed by K—F titration, showing 0.14% H2O. The solution was cooled under nitrogen and held overnight at rt. The solution was used directly in the next reaction without further processing. 1H NMR (300 MHz, CDCl3): 1.52–1.72 (m, 9), 1.77 (s, 6), 2.73–2.92 (m, 4), 6.90–7.00 (m, 1), 7.33–7.39 (m, 1)

reactant | 2-(4-bromo-2-fluorophenyl)-2-methylpropanenitrile | 0.4715 mol, 114.14 g | BrC1=CC(=C(C=C1)C(C#N)(C)C)F | C10H9BrFN
reactant | LiCl | 0.9347 mol, 39.62 g | [Li+].[Cl-]
reactant | LiOAc | 0.2334 mol, 15.41 g | [Li]OC(=O)C
reactant | 1-cyclopentyl-prop-2-en-1-ol | 0.5808 mol, 73.70 g | C1(CCCC1)C(C=C)O | C8H14O
catalyst | Pd(OAc)2 | 0.0234 mol, 5.2487 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | Et3N | CCN(CC)CC | C6H15N
solvent | H2O | 28.3 mL | O | H2O
solvent | DMAc | 283 mL | CC(=O)N(C)C | C4H9NO
product | 2-[4-(3-cyclopentyl-3-oxopropyl)-2-fluorophenyl]-2-methylpropanenitrile | C1(CCCC1)C(CCC1=CC(=C(C=C1)C(C#N)(C)C)F)=O | C18H22FNO
